US06562828B1
7-[1-(2,6-Dimethylpyridin-4-yl)-4-ethoxycarbonylpiperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid Benzyl Ester
To a solution of 7-(4-ethoxycarbonylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester (140 mg) in ethanol (3 ml) were added triethylamine (0.05 ml) and 4-chloro-2,6-dimethylpyridine (Journal of Heterocyclic Chemistry, vol. 27, p. 1841 (1990)) (45 mg) and the mixture was stirred at 150° C. for 25 hours in a sealed tube. After completion of the reaction, the solvent was evaporated and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=4:1) and dried under reduced pressure to give the title compound (160 mg).

reactant | 7-(4-ethoxycarbonylpiperidin-4-ylmethoxy)-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid benzyl ester | 140 mg | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1(CCNCC1)C(=O)OCC | C26H32N2O5
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-2,6-dimethylpyridine | 45 mg | ClC1=CC(=NC(=C1)C)C | C7H8ClN
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 7-[1-(2,6-Dimethylpyridin-4-yl)-4-ethoxycarbonylpiperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid Benzyl Ester | 160 mg | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1(CCN(CC1)C1=CC(=NC(=C1)C)C)C(=O)OCC | C33H39N3O5
